### PR TITLE
WIP -- trying to relate step1 to straightLine

### PR DESCRIPTION
**Pull request by protz**
I am trying to relate step1 to straightline, so as to be able to step just a few instructions at a time -- namely, those instructions that are found at a given address.

Right now, this prevents us from stepping through enough instructions that we can do some loop-based reasoning. In short, restoring `p3` from the Examples directory.

This would also be useful for #137 which, as far as I can tell, does not use `kstep`.

I did some digging and found some issues with the layout -- these were fixed in my previous PR #136. I also rephrased directivesAtAddress and directivesFromAddress to make it obvious that the former is a prefix of the latter.

Sketching the proof, it turns out we need a monotonicity lemma for Directives.interp -- this is courtesy of Gemini.

The final step is still missing, hence why this PR is still draft.

### CODE REVIEW

File: Kraken/X64/Examples/Examples.lean [hunk 1]
```diff
@@ -20,12 +20,40 @@ import Kraken.X64.Sep
...
+  Nat.shiftRight_zero
+  Nat.sub_zero
+  UInt64.ofBitVec_add
+  UInt64.ofBitVec_ofNat
+  UInt64.ofBitVec_sub
+  UInt64.ofBitVec_toBitVec
+  UInt64.sub_add_cancel
+  UInt64.toBitVec_ofNat
+  UInt64.toBitVec_sub
+  UInt64.toNat_toBitVec
```
Comment (andres-erbsen) [inline Kraken/X64/Examples/Examples.lean:47]: Could we use attribute `grind_hom` instead of generic simp to handle these lemmas?

File: Kraken/X64/Examples/Examples.lean [hunk 2]
```diff
@@ -20,12 +20,40 @@ import Kraken.X64.Sep
...
+
 --------------------------------------------------------------------------------
 
 def p1 := parse("start: mov $1, %rax")
 
 -- Super-simple example to debug tactics
-example [layout : Layout] s : straightlineStep (layout p1) (s, layout.start) (fun s => s.1.regs.rax = 1) := by
+example [layout : Layout] (hwf : (layout p1).WellFormed) s :
```
Comment (andres-erbsen) [inline Kraken/X64/Examples/Examples.lean:54]: > (hwf : (layout p1).WellFormed)

We should be able set up the semantics so that:
- a program with instructions larger than 16 bytes admits no steps (conservatively treating oversized-instruction execution as undefined behavior)
- a program with less than 2^64/16 instructions is automatically proven well-formed

File: Kraken/X64/OmniSemantics.lean [hunk 3]
```diff
@@ -17,8 +17,547 @@ import Kraken.X64.Semantics
...
+        simp [hx_pc]
+      omega
+    exact eventually_step e hwf (s', y.1) post h_straightline_next
+termination_by (e.withAddresses.dropWhile (·.1 ≠ st.2)).length
+decreasing_by exact h_len
+
+theorem eventually_step_cps [Layout] (e : Executable) (hwf : e.WellFormed)
+    (st : MachineState) (post : @Post MachineState) :
+    straightlineStep e st (fun mid => Eventually (step1 e) post mid) →
+    Eventually (step1 e) post st := by
```
Comment (andres-erbsen) [inline Kraken/X64/OmniSemantics.lean:536]: The name of this lemma does not match the abstraction level of the statement. Both generic Omnisemantics.facts and X64-specific specializations can be useful, but we should keep the difference clear.

Leaving some arguments implicit/inferred in applications of this lemma could also improve readability of proof scripts

File: Kraken/X64/OmniSemantics.lean [hunk 4]
```diff
@@ -17,8 +17,547 @@ import Kraken.X64.Semantics
...
+    obtain ⟨d, sz⟩ := head
+    dsimp [Directives.interp] at *
+    exact Directive.interp_mono d s (.mk pc (pc + .ofNat sz))
+      (fun s' => ih s' (pc + .ofNat sz) hnext)
+      hjmp
+      h
+
+theorem eventually_step [Layout] (e: Executable) (hwf : e.WellFormed) (st: MachineState) (post: @Post MachineState):
+    straightlineStep e st post →
+    Eventually (step1 e) post st
```
Comment (andres-erbsen) [inline Kraken/X64/OmniSemantics.lean:479]: Rename to `eventually_straightlineStep`? The current name reads like the premise is a single step.

File: Kraken/X64/OmniSemantics.lean [hunk 5]
```diff
@@ -17,8 +17,547 @@ import Kraken.X64.Semantics
   | .require_write_access _ _ cont => (cont ()).All post
   | .require_exec_access _ cont => (cont ()).All post
 
+theorem MachineData.load_mono {s : MachineData} {addr : BitVec 64} {w : Width}
```
Comment (andres-erbsen) [inline Kraken/X64/OmniSemantics.lean:20]: All the mechanical target-specific semantics-well-formedness lemmas should probably go into a dedicated file

**Review by andres-erbsen — COMMENTED** [review]
Partial review

File: Kraken/X64/Examples/Examples.lean (hunk 2 above)
Comment (protz) [reply Kraken/X64/Examples/Examples.lean:54]: decision: use `Fin 16` for `instr_size` and then derive well-formedness automatically (by `decide` or something)

File: Kraken/X64/OmniSemantics.lean (hunk 3 above)
Comment (protz) [reply Kraken/X64/OmniSemantics.lean:536]: todo: hoist this to a generic lemma that is over `{MachineState}` -- generally, do we need two OmniSemantics files? pinging @lukaszobernig because I think this is from your earlier refactoring PR, I forgot why we ended up this way

File: Kraken/X64/OmniSemantics.lean (hunk 5 above)
Comment (protz) [reply Kraken/X64/OmniSemantics.lean:20]: decision: categorize lemmas into
1. completely mechanical stuff that could be written by an AI or a meta-program (monotonicity lemmas)
2. accounting / book-keeping lemmas e.g. for the behavior of withAddresses, reverse and fold
3. high-level meaningful lemmas for stepping, to be used by high-level tactics

Category 3 can be further split between machine-specific and generic lemmas.

We can also use the upcoming switch to Lean's module system to make 1. and 2. private (insofar as possible). To be investigated.

File: Kraken/X64/Examples/Examples.lean [hunk 6]
```diff
@@ -95,108 +124,135 @@ _end:
...
 
-set_option maxHeartbeats 4000000 in
-theorem p3_correct [layout: Layout] (s: MachineData):
-    p3_spec s < 2^64 →
-    Eventually (straightlineStep (layout p3)) (fun s => s.1.regs.rdx.toNat = p3_spec s.1 ∧ s.1.regs.rax = 0) (s, layout.start) :=
-  by
-    intros h_bounds
-    apply step_cps
-    kprologue p3 with s
+private theorem int64_rel_jmp_target (u tgt : Int64) :
```
Comment (protz) [inline Kraken/X64/Examples/Examples.lean:127]: TODO: investigate why this (and other helpers below) are not dischargeable through `grind`

File: Kraken/X64/Examples/Examples.lean [hunk 7]
```diff
@@ -95,108 +124,135 @@ _end:
...
+  kstep 2
+  tactic =>
+  change Effects.All _ (@Directives.interp (Executable.labels (layout p3)) ((p3.mapIdx (fun i d => (d, layout.size i))).drop 2) _ pc_start (fun pc s => Effects.done (s, pc)))
+  rw [← h_from_start]
+  change straightlineStep (layout p3) (_, pc_start) _
+  dsimp only [p3_spec] at hb ⊢
+  apply tailrec_loop_straightline (layout p3) h
+    (fun s' => s'.1.regs.rdx.toNat = 2 ^ (2 ^ rbx.toNat) ∧ s'.1.regs.rax = 0)
+    (_, pc_start)
+    (fun v st =>
```
Comment (protz) [inline Kraken/X64/Examples/Examples.lean:186]: do we need to state this extensive post-condition or can we rephrase the lemma in a way that the postcondition (at least for trivial cases) can just be `_`?

File: Kraken/X64/Examples/Examples.lean [hunk 8]
```diff
@@ -95,108 +124,135 @@ _end:
...
-                rw [h_vi_k, Nat.mod_eq_of_lt]
-                . rw [← Nat.pow_two, ← Nat.pow_mul, ← Nat.pow_succ]
-                . apply Nat.lt_of_le_of_lt _ h_bounds
-                  rw [← Nat.pow_two, ← Nat.pow_mul, ← Nat.pow_succ]
-                  apply Nat.pow_le_pow_right (by decide)
-                  apply Nat.pow_le_pow_right (by decide)
-                  omega -/
+    rfl
+  · intro v state ⟨hpc, hrbx, hle, hrdx, hrax_st⟩
+    obtain ⟨⟨⟨rax', rbx', rcx', rdx', rsi', rdi', rsp', rbp', r8', r9', r10', r11', r12', r13', r14', r15'⟩, zmms', flags', mem'⟩, pc'⟩ := state
```
Comment (protz) [inline Kraken/X64/Examples/Examples.lean:197]: again? is this necessary in the proof script?

File: Kraken/X64/Examples/Examples.lean [hunk 9]
```diff
@@ -95,108 +124,135 @@ _end:
...
+    dsimp only at hpc hrbx hrdx hrax_st
+    subst hpc
+    dsimp only [straightlineStep, Executable.straightline]
+    rw [h_from_start]
+    delta p3
```
Comment (protz) [inline Kraken/X64/Examples/Examples.lean:202]: why is this necessary? investigate

File: Kraken/X64/Examples/Examples.lean [hunk 10]
```diff
@@ -95,108 +124,135 @@ _end:
...
+    rename_i v_sub status
+    have hv_lt : v < 2 ^ 64 := hrbx ▸ rbx'.toBitVec.isLt
+    have hv_sub : v_sub = BitVec.ofNat 64 v := by simp [v_sub, ← hrbx]
+    by_cases hv0 : v = 0
+    · have h_cond : (v_sub == BitVec.zero 64) = true := by rw [hv_sub, hv0]; rfl
+      simp only [h_cond, ↓reduceIte, Effects.All]
+      exact Or.inl ⟨by rw [hrdx, hv0, Nat.sub_zero], hrax_st⟩
+    · have h_cond : (v_sub == BitVec.zero 64) = false := by
+        rw [hv_sub]
+        apply Bool.eq_false_iff.mpr
```
Comment (protz) [inline Kraken/X64/Examples/Examples.lean:216]: TODO: investigate whether with prompting that relies on the PR for grind homomorphisms and documentation for kstep, we can make this proof more concise

File: Kraken/X64/OmniSemantics.lean [hunk 11]
```diff
@@ -17,8 +17,547 @@ import Kraken.X64.Semantics
...
+      hret
+      h
+
 def step1 [Layout] (e: Executable) (s: MachineState) (post: @Post MachineState) : Prop :=
   (Executable.step e s .done).All post
 
 def straightlineStep [Layout] (e: Executable) (s: MachineState) (post: @Post MachineState) : Prop :=
   (Executable.straightline e s .done).All post
+
+theorem Directives.interp_split [Labels]
```
Comment (protz) [inline Kraken/X64/OmniSemantics.lean:455]: mark as private -- doesn't make much sense to me, I was expecting the other direction?

File: Kraken/Layout.lean [hunk 12]
```diff
@@ -64,10 +81,242 @@ theorem Executable.directivesFromStart {Directive : Type} [layout : Layout Direc
...
+        rw [h_drop_a1, List.dropWhile_cons, List.dropWhile_cons]
+        simp [ha2_ne_a1']
+      exact hwf a1 (a2, d2, sz2) suf h_step2
+  dsimp [Executable.directivesFromAddress]
+  change (e.withAddresses.dropWhile (·.1 ≠ a2)).map (·.2) = (d2, sz2) :: rest
+  rw [h_drop_a2, List.map_cons]
+  congr 1
+  exact Executable.withAddresses_map_snd rest (a2 + Int64.ofNat sz2)
+
+private theorem int64_add_ofNat_assoc (a : Int64) (m n : Nat) :
```
Comment (protz) [inline Kraken/Layout.lean:191]: same remark: why not grind

File: Kraken/Layout.lean [hunk 13]
```diff
@@ -64,10 +81,242 @@ theorem Executable.directivesFromStart {Directive : Type} [layout : Layout Direc
...
+      obtain ⟨hne, k, hk_le, hy⟩ := withAddresses_dropWhile_eq_offset start_addr start_addr ((d, sz) :: tl) h'
+      have hk_pos : 0 < k := by
+        cases k with
+        | zero =>
+          simp at hy
+          exact absurd hy hne
+        | succ n => omega
+      exact ⟨k, hk_pos, hk_le, hy⟩
+
+theorem Executable.wellFormed_of_sum_lt {Directive : Type} (e : Executable Directive)
```
Comment (protz) [inline Kraken/Layout.lean:262]: this is the central lemma and we should add a comment

**Review by protz — COMMENTED** [review]
To fix before merging:
- investigate a little bit more the large amount of lemmas related to withAddresses, to separate between stuff that is directly in service of obtaining the well-formedness lemma from instruction bounds, and stuff that is equational theory (can it be improved?)
- time-bounded attempt to see if we can leverage grind homomorphisms

The rest can be addressed with followups

File: Kraken/X64/OmniSemantics.lean (hunk 3 above)
Comment (lukaszobernig) [reply Kraken/X64/OmniSemantics.lean:536]: I remember trying to make this generic but it ended up being more code. And since Effects are different, each architecture got its own minimal OmniSemantics file to handle just that. But I suppose we can eat the extra lines now and make it generic.

Comment (andres-erbsen) [reply Kraken/X64/OmniSemantics.lean:536]: IMO Omnisemantics should also be generic over effects, even if it makes for more lines. 

Is there a deep reason why effects are different? Conceptually, if we had heterogeneous multi-core system with ARM64 and X64 cores, would they genuinely have different bus-level capabilities?

Comment (lukaszobernig) [reply Kraken/X64/OmniSemantics.lean:536]: Here x64 has a `gp_unaligned` (for unaligned vector loads/stores), AArch64 has a `unaligned_sp` (for unaligned SP during LDP/STP). We could unify these into an `alignment_check` effect. Or have a more generic "error interrupt" mechanism to capture such failures.

Comment (andres-erbsen) [reply Kraken/X64/OmniSemantics.lean:536]: Both of these sound like "ErrorUnimplemented" stand-ins for the real CPU-local behavior, without deep conceptual differences. I'd lean towards sharing Effects.

Comment (protz) [reply Kraken/X64/OmniSemantics.lean:536]: LLM generalization based on type classes in protz/gen-mono

File: Kraken/X64/OmniSemantics.lean [hunk 14]
```diff
@@ -17,8 +17,547 @@ import Kraken.X64.Semantics
...
+    {p q : @Post MachineState} (hpq : ∀ s, p s → q s) :
+    straightlineStep e st p → straightlineStep e st q :=
+  let _ := e.labels
+  Directives.interp_mono _ _ _ (fun _ _ => hpq _)
+
+theorem tailrec_loop_straightline [Layout] (e : Executable) (hwf : e.WellFormed)
+    (post : @Post MachineState) (initial : MachineState)
+    (P : Nat → @Post MachineState) (v0 : Nat) (hP : P v0 initial)
+    (hbody : ∀ v state, P v state →
+      straightlineStep e state (fun mid_s => post mid_s ∨ ∃ v', P v' mid_s ∧ v' < v)) :
```
Comment (andres-erbsen) [inline Kraken/X64/OmniSemantics.lean:552]: This doesn't apply when there's even an `if` inside the loop, does it? (I'm not sure we want a lemma that limited, but not strongly opposed either)
